US04400509
42 ml of hexamethyldisilazane (0.20 mole) were added dropwise in 8 minutes to a refluxing mixture of 7.20 g (40 mmoles) of fructose, 0.07 g (0.4 mmole) of saccharin, 24 ml of chloroform and 8 ml of pyridine and the ammonia evolved was absorbed in water and titrated with 1 N H2SO4. It was found that 0.10 mole of ammonia was evolved after refluxing for one hour and refluxing was continued for half an hour. The solvents were distilled off at normal pressure and the residue was vacuum distilled to yield 19.63 g (90.9%) of penta-(trimethylsilyl)-fructose with a boiling point of 138°-142° C. at 0.5 mm Hg and a nD 25=1.4306.

reactant | hexamethyldisilazane | 0.20 mole, 42 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | fructose | 40 mmoles, 7.20 g | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | chloroform | 24 ml | C(Cl)(Cl)Cl | CHCl3
reactant | ammonia | 0.10 mole | N | H3N
catalyst | saccharin | 0.4 mmole, 0.07 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | penta-(trimethylsilyl)-fructose | 19.63 g, 90.9% | C[Si](C)(C)[C@@]([C@]([C@@](C(C(O)([Si](C)(C)C)[Si](C)(C)C)=O)(O)[Si](C)(C)C)(O)[Si](C)(C)C)(O)CO | C21H52O6Si5
